US07652041B2
Step 2. Preparation of 3-(4-{[2-(aminocarbonyl)pyridin-4-yl]oxy}phenyl)-propanoic acid
To a suspension of 4-chloropyridine-2-carbonitrile (2.0 g, 14.5 mmol) in DMF (70 mL) was added cesium carbonate (14.0 g, 43.5 mmol) and 3-(4-hydroxyphenyl)propanoic acid (2.6 g, 15.9 mmol). The reaction mixture was heated at reflux overnight. The mixture was cooled to rt, concentrated, and then taken up in 300 mL of water. The pH was adjusted to 3 by the dropwise addition of oxalic acid and a precipitate formed. The precipitate was filtered to yield the title compound as a brown solid (1.2 g, 28%). LCMS: Method FA, Rt=1.27 min, [MH+=287].

reactant | 4-chloropyridine-2-carbonitrile | 14.5 mmol, 2.0 g | ClC1=CC(=NC=C1)C#N | C6H3ClN2
reactant | cesium carbonate | 43.5 mmol, 14.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(4-hydroxyphenyl)propanoic acid | 15.9 mmol, 2.6 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 3-(4-{[2-(aminocarbonyl)pyridin-4-yl]oxy}phenyl)-propanoic acid | 1.2 g, 28% | NC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)CCC(=O)O | C15H14N2O4
